US04343811
2-(3-Benzyl-2-methyl-1-propyl-1H-indole-5-yloxy)-2-methyl-propanoic acid ethylester
The above compound was prepared from 3-benzyl-2-methyl-1-propyl-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester using a procedure analogous to that of Example 10.

reactant | 3-benzyl-2-methyl-1-propyl-1H-indole-5-ol | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)O)CCC)C | C19H21NO
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-(3-Benzyl-2-methyl-1-propyl-1H-indole-5-yloxy)-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C)CC1=CC=CC=C1)=O | C25H31NO3
